US06359145B1
Trifluoromethanesulfonic acid (1.13 g) was added to a stirred mixture of ethyl (S)-(−)-lactate (5.90 g) and benzyl 2,2,2-trichloroacetimidate (15.15 g) in cyclohexane (70 ml) and methylene chloride (35 ml) at room temperature under nitrogen atmosphere. After being stirred for 18 hours, the reaction mixture was filtered. The filtrate was diluted with cyclohexane, and then washed successively with saturated NaHCO3 solution (100 ml)and H2O (100 ml). The organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel (260 g) chromatography eluted with hexane/ethyl acetate (30:1) to give ethyl (S)-2-(benzyloxy)propionate (6.48 g).

reactant | Trifluoromethanesulfonic acid | 1.13 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | ethyl (S)-(−)-lactate | 5.90 g | C([C@@H](O)C)(=O)OCC | C5H10O3
reactant | benzyl 2,2,2-trichloroacetimidate | 15.15 g | ClC(C(OCC1=CC=CC=C1)=N)(Cl)Cl | C9H8Cl3NO
solvent | cyclohexane | 70 ml | C1CCCCC1 | C6H12
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | ethyl (S)-2-(benzyloxy)propionate | 6.48 g | C(C1=CC=CC=C1)O[C@H](C(=O)OCC)C | C12H16O3
